US04393234
The sulphobenzoic acid melt is pumped or injected under pressure, for example into previously taken molten 60 to 90% strength sodium hydroxide solution, in the course of which, merely by utilizing the heat thus liberated, the reaction temperature of, for example, 260° to 370° C. is reached, which is advantageous for the subsequent reaction to give 3-hydroxybenzoic acid. If it is intended to achieve, in this process variant, a limitation of the simultaneous increase in pressure, this can be effected by blowing off steam.

reactant | sulphobenzoic acid | S(=O)(=O)(O)C1=C(C(=O)O)C=CC=C1 | C7H6O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
